US07893090B2
Description 69: (RS)-2-[1-(5-Bromo-benzofuran-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound (0.96 g) was prepared from 5-bromo-benzofuran (3.6 g, prepared according to procedures similar to those described in Synth. Commun., 257, (1989)) and (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine, D1 (4.9 g) according to a procedure similar to that for Description 2.

reactant | 5-bromo-benzofuran | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
reactant | (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine | C(C)(C)(C)OC(=O)N1C(CCCC1)C(N(C)OC)=O | C13H24N2O4
product | (RS)-2-[1-(5-Bromo-benzofuran-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.96 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C=1OC2=C(C1)C=C(C=C2)Br | C19H22BrNO4
